US07799933B2
A solution of 5-chloro-2-methoxybenzenesulfonyl chloride (2.75 g, 11.20 mmol) in dichloromethane (0.15 L) was treated with pyridine (14.59 mL, 181.26 mmol) and a solution of 7-nitro-1,2,3,4-tetrahydro-quinoline (1.90 g, 10.66 mmol) in dichloromethane (6.00 mL). The mixture was stirred at room temperature for 120 hours, then the volatiles were evaporated. The residue was redissolved in dichloromethane and washed with water. The organic phase was dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography (dichloromethane/methanol gradient) to yield 1-(5-chloro-2-methoxy-benzenesulfonyl)-7-nitro-1,2,3,4-tetrahydro-quinoline as an orange solid, 3.46 g (85%), MS (ISP): m/e=383.1 (M+H).

reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | 11.20 mmol, 2.75 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
reactant | pyridine | 181.26 mmol, 14.59 mL | N1=CC=CC=C1 | C5H5N
reactant | 7-nitro-1,2,3,4-tetrahydro-quinoline | 10.66 mmol, 1.90 g | [N+](=O)([O-])C1=CC=C2CCCNC2=C1 | C9H10N2O2
solvent | dichloromethane | 0.15 L | ClCCl | CH2Cl2
solvent | dichloromethane | 6.00 mL | ClCCl | CH2Cl2
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-7-nitro-1,2,3,4-tetrahydro-quinoline | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-])OC | C16H15ClN2O5S
